US08404672B2
A solution of methyl 5-(3-(4-((3-(tert-butoxycarbonyl)azetidin-1-yl)methyl)phenyl)-1,2,4-oxadiazol-5-yl)-3-(pyridin-2-yl)isoxazole-4-carboxylate (79 mg, 0.153 mmol) in trifluoroacetic acid (2 mL) was allowed to stand at room temperature for 1 h. The volatiles were removed under reduced pressure, and the residue was suspended in water. The pH was adjusted to ˜4 with a 1N aqueous solution of sodium hydroxide, and the resulting suspension was allowed to stir briskly overnight. Filtration and drying afforded 1-(4-(5-(4-(methoxycarbonyl)-3-(pyridin-2-yl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)benzyl)azetidine-3-carboxylic acid (65 mg, 0.141 mmol, 92% yield) as a slightly off-white powder. HPLC retention time=2.51 minutes (YMC-Combi 4.6×50 mm S-5 ODS column) eluting with 10-90% aqueous methanol+0.2% phosphoric acid over a 4 minute gradient. MS: (M+H)=462.18. 1H NMR (500 MHz, MeOD) δ ppm 3.61-3.68 (m, 1H), 3.98 (s, 3H), 4.30-4.37 (m, 4H), 4.50 (s, 2H), 7.53-7.56 (m, 1H), 7.68 (d, J=8.3 Hz, 2H), 7.98-8.02 (m, 1H), 8.09 (d, J=7.7 Hz, 1H), 8.26 (d, J=8.8 Hz, 2H), and 8.69 (d, J=4.4 Hz, 1H).

reactant | methyl 5-(3-(4-((3-(tert-butoxycarbonyl)azetidin-1-yl)methyl)phenyl)-1,2,4-oxadiazol-5-yl)-3-(pyridin-2-yl)isoxazole-4-carboxylate | 0.153 mmol, 79 mg | C(C)(C)(C)OC(=O)C1CN(C1)CC1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=NC=CC=C1)C(=O)OC | C27H27N5O6
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(4-(5-(4-(methoxycarbonyl)-3-(pyridin-2-yl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)benzyl)azetidine-3-carboxylic acid | 0.141 mmol, 65 mg, 92% yield | COC(=O)C=1C(=NOC1C1=NC(=NO1)C1=CC=C(CN2CC(C2)C(=O)O)C=C1)C1=NC=CC=C1 | C23H19N5O6
